US07125901B2
A mixture of N-{5-[(Z)-2-(4-nitrophenyl)ethenyl]-1,3-thiazol-2-yl}acetamide (1 g) and 10% palladium carbon (1.04 g) in ethyl acetate (100 ml) and N,N-dimethylformamide (20 ml) was stirred under 4 atm hydrogen at ambient temperature for 4 hours. The reaction mixture was filtered through a celite pad, and the filtrate was concentrated in vacuo. The residue was purified by flash column chromatography over silica gel with chloroform/methanol (30:1→20:1) as an eluent, and triturated with ethyl ether to give N-{5-[2-(4-aminophenyl)ethyl]-1,3-thiazol-2-yl}acetamide (240.9 mg) as an off-white solid.

reactant | N-{5-[(Z)-2-(4-nitrophenyl)ethenyl]-1,3-thiazol-2-yl}acetamide | 1 g | [N+](=O)([O-])C1=CC=C(C=C1)\C=C/C1=CN=C(S1)NC(C)=O | C13H11N3O3S
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
catalyst | palladium carbon | 1.04 g | [C].[Pd]
product | N-{5-[2-(4-aminophenyl)ethyl]-1,3-thiazol-2-yl}acetamide | 240.9 mg | NC1=CC=C(C=C1)CCC1=CN=C(S1)NC(C)=O | C13H15N3OS
